US08541455B2
Under argon, and at room temperature, 1.7 g (74.18 mmol) of sodium are dissolved in 75 mL of anhydrous EtOH. 13.5 mL (74.2 mmol) of diethyl 3-oxopentanedioate and then 8.8 mL (74.2 mmol) of benzyl bromide are then added dropwise, at room temperature. The medium is then refluxed for 3 hours, concentrated under reduced pressure and purified by chromatography on a column of silica gel, eluting with a cyclohexane/EtOAc gradient of 0 to 20% EtOAc. 8.29 g of diethyl 2-benzyl-3-oxopentanedioate are obtained in the form of a translucent oil.

reactant | sodium | 74.18 mmol, 1.7 g | [Na] | Na
reactant | diethyl 3-oxopentanedioate | 74.2 mmol, 13.5 mL | O=C(CC(=O)OCC)CC(=O)OCC | C9H14O5
reactant | benzyl bromide | 74.2 mmol, 8.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | EtOH | 75 mL | CCO | C2H6O
product | diethyl 2-benzyl-3-oxopentanedioate | 8.29 g, Yield=38% | C(C1=CC=CC=C1)C(C(=O)OCC)C(CC(=O)OCC)=O | C16H20O5
